US09353107B2
Step-ii: tert-butyl 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate
Using similar reaction conditions as described in step ii of intermediate-3, tert-butyl 4-(4-bromo-2-fluorophenyl)-5,6-dihydropyridine-1(2H)-carboxylate (250 mg, 0.698 mmol) was coupled with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (265 mg, 1.047 mmol) using potassium acetate (205 mg, 2.09 mmol) and Pd(dppf)Cl2 (26 mg, 0.035 mmol) in 1,4-dioxane (10 mL) to give 270 mg (96.42% yield) of the pure product after purification by chromatographic column (silicagel-60/120) using 15% ethyl acetate as eluent. MS: m/z=404.4 (M+1).

reactant | tert-butyl 4-(4-bromo-2-fluorophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.698 mmol, 250 mg | BrC1=CC(=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)F | C16H19BrFNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.047 mmol, 265 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.09 mmol, 205 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.035 mmol, 26 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 270 mg, 96.42% yield | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C | C22H31BFNO4
